US04065491
60 ml. of concentrated hydrochloric acid are added to 11.25 g. (0.05 moles) of diethyl N-carboxymethyl-aminomethyl-phosphonate, and the mixture is boiled for 2 hours. The reaction mixture is concentrated to one-fourth volume under a pressure of 80 to 100 mmHg., and the residue is triturated with 60 ml. of ethanol. The solid substance is filtered when cold, dissolved in 15 to 20 ml. of hot water, the solution is decolorized, cooled, and the product is precipitated with 45 ml. of acetone. 5.3-5.7 g. (62.7-67.5%) of N-phosphonomethyl-glycine are obtained.

reactant | hydrochloric acid | Cl | ClH
reactant | diethyl N-carboxymethyl-aminomethyl-phosphonate | 0.05 moles | C(=O)(O)CNCP(OCC)(OCC)=O | C7H16NO5P
product | N-phosphonomethyl-glycine | 62.7-67.5% | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
